US06756378B2
To a stirred solution of methyl 4-[5-(R)-phenyl-2-(S)-pirrolidinylmethoxy]benzoate (109 mg, 0.35 mmol), 4-[N′-(2,4-dichlorophenyl)ureido]-3-methoxyphenylacetic acid (129 mg, 0.35 mmol) and N,N-dimethylaminopyridine (42.8 mg, 0.35 mmol) in DMF (10 ml) was added EDC.HCl (73.4 mg, 0.39 mmol) at rt, and the resulting mixture was stirred for 6 h. The reaction mixture was poured into water and extracted with EtOAc. The organic layer was washed with brine, drying over anhydrous Na2SO4, then concentrated in vacuo. The residue was chromatographed on silica gel with hexane-EtOAc (1:4) as eluent to give methyl 4-[1-[4-[N′-(2,6-dichlorophenyl)ureido]-3-methoxyphenylacetyl]-5-(R)-phenyl-2-(S)-pyrrolidinylmethoxy]benzoate (208 mg, 90%) as a colorless amorphous solid. 1H-NMR (CDCl3) δ2.00-2.21 (m, 3 H), 2.33-2.39 (m, 1 H), 3.31 (s, 2 H), 3.69 (s, 3 H), 3.88 (s, 3 H), 4.34-4.45 (m, 2 H), 4.59 (brs, 1 H), 4.93 (t, J=6.8 Hz, 1 H), 6.47 (d, J=8.0 Hz, 1 H), 6.63 (s, 1 H), 6.68 (s, 1 H), 6.92-6.95 (m, 2 H), 7.12-7.41 (series of m, 9 H), 7.96-8.01 (m, 4 H); MS (FAB) m/z, 662 (M++H).

reactant | methyl 4-[5-(R)-phenyl-2-(S)-pirrolidinylmethoxy]benzoate | 0.35 mmol, 109 mg | C1(=CC=CC=C1)[C@H]1CC[C@H](N1)COC1=CC=C(C(=O)OC)C=C1 | C19H21NO3
reactant | 4-[N′-(2,4-dichlorophenyl)ureido]-3-methoxyphenylacetic acid | 0.35 mmol, 129 mg | ClC1=C(C=CC(=C1)Cl)NC(NC1=C(C=C(C=C1)CC(=O)O)OC)=O | C16H14Cl2N2O4
reactant | EDC.HCl | 0.39 mmol, 73.4 mg | CCN=C=NCCCN(C)C.Cl
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 4-[1-[4-[N′-(2,6-dichlorophenyl)ureido]-3-methoxyphenylacetyl]-5-(R)-phenyl-2-(S)-pyrrolidinylmethoxy]benzoate | 208 mg, 90% | ClC1=C(C(=CC=C1)Cl)NC(NC1=C(C=C(C=C1)CC(=O)N1[C@@H](CC[C@@H]1C1=CC=CC=C1)COC1=CC=C(C(=O)OC)C=C1)OC)=O | C35H33Cl2N3O6
